US03983240
1-Hydroxy-2-phenoxy-4,4-dimethyl-pentan-3-one (111.1 g, 0.5 mol) is dissolved in 500 ml of methylene chloride. Thionyl chloride (62 g, 0.52 mol) is added dropwise to the solution at room temperature. The start of the reaction can be accelerated by gentle warming. After a reaction time of two hours at room temperature, the solvent is distilled off in vacuo and the oily residue is degassed in a high vaccum to afford 93.0 g (77% of theory) of 1-chloro-4,4-dimethyl-2-phenoxy-pentan-3-one as an oil having a refractive index of nD20 = 1.5081 and a boiling point of (0.4 mm Hg)/110°C.

reactant | 1-Hydroxy-2-phenoxy-4,4-dimethyl-pentan-3-one | 0.5 mol, 111.1 g | OCC(C(C(C)(C)C)=O)OC1=CC=CC=C1 | C13H18O3
reactant | Thionyl chloride | 0.52 mol, 62 g | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 1-chloro-4,4-dimethyl-2-phenoxy-pentan-3-one | 93.0 g, 77% | ClCC(C(C(C)(C)C)=O)OC1=CC=CC=C1 | C13H17ClO2
